US04080330
N-dimethylaminoacetyl-3-phenylindoline
2.0 G of N-chloracetyl-3-phenylindoline was added to a saturated solution of dimethylamine in 50 ml of dry benzene. The mixture was stirred for one hour, the dimethylamine hydrochloride filtered off and the filtrate evaporated to dryness leaving 2.1 g of a white crystalline residue m.p. 101°-103° C. The residue was converted into N-dimethylaminoacetyl-3-phenylindoline hydrochloride by treatment with methanolic hydrochloric acid in the usual manner. The N-dimethylaminoacetyl-3-phenylindoline hydrochloride has a melting point of 235°-43° C.

reactant | N-dimethylaminoacetyl-3-phenylindoline hydrochloride | Cl.CN(C)CC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | N-dimethylaminoacetyl-3-phenylindoline | CN(C)CC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C18H20N2O
